US04000143
2-(β-Methyl-2-nitrostyryl)pyridine (24.0 g., 0.1 mole) is hydrogenated on a Parr apparatus in 200 ml. of ethanol with 3 g. of 10% Pd/C as catalyst. The catalyst is filtered and the filtrate evaporated, providing 2-[2-(2-aminophenyl)-1-methylethyl]pyridine.

reactant | 2-(β-Methyl-2-nitrostyryl)pyridine | 0.1 mole, 24.0 g | CC(=CC1=NC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-] | C14H12N2O2
reactant | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-[2-(2-aminophenyl)-1-methylethyl]pyridine | NC1=C(C=CC=C1)CC(C)C1=NC=CC=C1 | C14H16N2
